US07625889B2
Step 3: 4-[2-Fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzylamino]-piperidine-1-carboxylic acid 2-trimethylsilany-1-ethyl ester:
Sodium triacetoxyborohydride (890 mg, 4.2 mmol) and acetic acid (126 mg, 4.2 mmol) were added to a solution of 5-(4-fluoro-3-formylphenyl)-1-trityl-1H-benzotriazole (1.0 mg, 2.1 mmol) and 4-amino-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester (760 mg, 3.1 mmol) in dichloroethane. The mixture was stirred at ambient temperature overnight, and then it was diluted with dichloromethane, and neutralized with careful addition of 1 M sodium carbonate solution. The layers were separated and the aqueous phase extracted with dichloromethane. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography provided 980 mg of product. LC/MS: Retention time, 3.27 and 3.34 min; (M+H)=712.

reactant | Sodium triacetoxyborohydride | 4.2 mmol, 890 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.2 mmol, 126 mg | C(C)(=O)O | C2H4O2
reactant | 5-(4-fluoro-3-formylphenyl)-1-trityl-1H-benzotriazole | 2.1 mmol, 1.0 mg | FC1=C(C=C(C=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C=O | C32H22FN3O
reactant | 4-amino-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 3.1 mmol, 760 mg | C[Si](CCOC(=O)N1CCC(CC1)N)(C)C | C11H24N2O2Si
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-Fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzylamino]-piperidine-1-carboxylic acid 2-trimethylsilany-1-ethyl ester | 980 mg | C[Si](CCOC(=O)N1CCC(CC1)NCC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F)(C)C | C43H46FN5O2Si
